US05610302
2-Acetamido-4-methyl-6-dimethylaminopyrimidine 3-oxide
Following the procedure described in Example 11, acetyl chloride is reacted in the presence of triethylamine with 2-amino-4-methyl-6-dimethylaminopyrimidine 3-oxide.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 2-amino-4-methyl-6-dimethylaminopyrimidine 3-oxide | NC1=NC(=CC(=[N+]1[O-])C)N(C)C | C7H12N4O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Acetamido-4-methyl-6-dimethylaminopyrimidine 3-oxide | C(C)(=O)NC1=NC(=CC(=[N+]1[O-])C)N(C)C | C9H14N4O2
